US04386028
130 ml of 89 percent nitric acid are treated portionwise at room temperature over a period of 1.5 hours with 43.0 (199 mmol) of (S)-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione. The mixture is stirred at room temperature for 18 hours and poured into 1.5 l of ice-water. The precipitated material is filtered off under suction, washed with a large amount of water and dried at 80° in vacuo. There is obtained (S)-(+)-1,2,3,11a-tetrahydro-7-nitro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione of melting point 259°-261°.

reactant | (S)-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | C1CCN2[C@@H]1C(NC1=C(C2=O)C=CC=C1)=O | C12H12N2O2
reactant | nitric acid | 130 ml | [N+](=O)(O)[O-] | HNO3
product | (S)-(+)-1,2,3,11a-tetrahydro-7-nitro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | [N+](=O)([O-])C=1C=CC2=C(C(N3[C@H](C(N2)=O)CCC3)=O)C1 | C12H11N3O4
